US05928562
Preparation of 5-Pentoxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl chloride (5.17 g of 95% purity, 8.4 mmol) with 5-pentoxy-2-(4-hydroxyphenyl)pyrimidine (2.17 g, 8.4 mmol). The resulting crude product was purified by recrystallization from ethanol followed by Kugelrohr distillation to provide a yield of 3.6 g.

reactant | 3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl chloride | 8.4 mmol, 5.17 g | FC(C(C(OC(C(OC(COCCCCl)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H8ClF15O3
reactant | 5-pentoxy-2-(4-hydroxyphenyl)pyrimidine | 8.4 mmol, 2.17 g | C(CCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C15H18N2O2
product | 5-Pentoxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine | C(CCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C26H25F15N2O5
